US05919793
Butyl Lithium in hexane (1.6M, 3.4 ml) was added slowly to a stirred solution of trimethylsilylacetylene (1.0 g) in tetrahydrofuran (20 ml) at -70° C. under an atmosphere of argon. The reaction mixture was stirred at -70° C. for a further 60 minutes. A solution of 3-[2-(2-formylphenyl)ethynyl]-3-trimethylsilyloxyquinuclidine (1.3 g) in tetrahydrofuran (10 ml) was added slowly to the reaction mixture whilst maintaining the temperature at -70° C. The reaction mixture was allowed to warm to ambient temperature and then stirred for 20 hours. The reaction mixture was evaporated, potassium carbonate (4 g) and methanol (50 ml) added and the mixture was stirred vigorously at ambient temperature for 60 minutes. The inorganic salts were removed by filtration and the filtrate was evaporated to give a residue which was dissolved in ethyl acetate (150 ml). The solution was extracted with 2M hydrochloric acid (2×100 ml). The aqueous extracts were combined, washed with ether (2×200 ml) and then basified to pH 9 by addition of 5N sodium hydroxide solution. The aqueous mixture was extracted with ethyl acetate (2×100 ml), the ethyl acetate extracts combined, washed with water (100 ml), brine (100 ml), dried (MgSO4) and evaporated. The residue was purified by column chromatography on alumina (Alumina N 32-63) using a gradient of 2:98 to 5:95 (v/v) methanol in ethyl acetate as eluent to give a solid which was recrystallised from a mixture of tetrahydrofuran/hexane to give 3-[2-{2-(1-hydroxy-1-ethynylmethyl)phenyl}ethynyl]quinuclidin-3-ol (110 mg), m.p. 217° C.; microanalysis; found: C, 74.6; H, 7.2; N, 4.6%, C18H19NO2.0.5 H2O requires: C, 74.5; H, 6.9; N, 4.8%; NMR: 1.2-1.4 (1H, m), 1.45-1.7 (1H, m), 1.8-2.05 (3H, m), 2.55-2.8 (4H, m), 2.85 (1H, d), 3.15 (1H, d), 3.38 (1H, dd), 5.58 (1H, s), 5.6-5.7 (1H, m), 6.08 (1H, d), 7.25-7.46 (3H, m), 7.65 (1H, d), m/z 282 (M+H).

reactant | Butyl Lithium | C(CCC)[Li]
reactant | trimethylsilylacetylene | 1.0 g | C[Si](C)(C)C#C | C5H10Si
reactant | 3-[2-(2-formylphenyl)ethynyl]-3-trimethylsilyloxyquinuclidine | 1.3 g | C(=O)C1=C(C=CC=C1)C#CC1(CN2CCC1CC2)O[Si](C)(C)C | C19H25NO2Si
solvent | hexane | 1.6M, 3.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-{2-(1-hydroxy-1-ethynylmethyl)phenyl}ethynyl]quinuclidin-3-ol | 110 mg | OC(C#C)C1=C(C=CC=C1)C#CC1(CN2CCC1CC2)O | C18H19NO2
